US04192880
Preparation of 2-(5-ethylpyridin-2-yl) benzimidazol
11.3 g. of o-phenylenediamine, 15.1 g. of 5-ethylpicolinic acid and 80 g. of polyphosphoric acid were heated at 180°-190° C. under nitrogen gas current for 3 hours with stirring. The reaction mixture was diluted with 1,000 ml. of water and then neutralized with sodium carbonate. The resulting crystals were filtered off, dried and recrystallized from ethyl acetate to give 17.1 g. of colorless needles of the product (78% of theory). M.P. 172.5°-173.° C.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 5-ethylpicolinic acid | C(C)C=1C=CC(=NC1)C(=O)O | C8H9NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(5-ethylpyridin-2-yl) benzimidazol | C(C)C=1C=CC(=NC1)C=1NC2=C(N1)C=CC=C2 | C14H13N3
